* C:\School\Spring_26\Junior_Design\Junior_Design\Power_Supply\Schematics\LDO_Schematic.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 Vrect_filter Vout 0 LM2940_05 ;§pnba IN)OUT)VGND
C1 Vrect_filter 0 0.47µ
C2 Vout 0 22µ V=16 Irms=0 Rser=11 Lser=0 mfg="AVX" pn="TAJA105K016" type="Tantalum"
R1 Vout 0 1k
L1 0 VT1 130
L2 secondary N001 1
V1 Vin 0 SINE(0 120 60)
D1 0 N001 1N4148
D2 0 secondary 1N4148
D3 N001 Vrect_filter 1N4148
D4 secondary Vrect_filter 1N4148
R2 VT1 Vin 100
C3 Vrect_filter 0 1000µ
.model D D
.lib C:\Users\sreer\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 1
.tran 0 300m 0 1m
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\sreer\AppData\Local\LTspice\lib\sym\ZZZ\VolReg\LM2940.asy)
.lib LM2940XX.txt
.backanno
.end
